US04861771
A solution of 14.3 g(0.03 moles) of (R)-3-t-butyloxycarbonyl-6-chloro-7,8-diethylcarbamyl-1-(4'-hydroxyphenyl) 2,3,4,5-tetrahydro-1H-3-benzazepine, in 100 ml of ethyl acetate at 25° C. was treated with 50 ml of ethereal hydrogen chloride under argon atmosphere. After stirring for 72 hours, the reaction mixture was concentrated under reduced pressure and chased with 200 ml. of dry toluene. The resulting residue was triturated with 00 ml of ethyl acetate to give (R)-6-chloro-7,8-diethycarbamoyl-1-(4-hydroxyphenyl)-2,3,4,5-tetrahydro-1H 3-benzazepine hydrochloride, M.P. 185°-190° C. The Rf and the NMR of this compound was similar to that of the corresponding racemic compound of Example 5.

reactant | (R)-3-t-butyloxycarbonyl-6-chloro-7,8-diethylcarbamyl-1-(4'-hydroxyphenyl) 2,3,4,5-tetrahydro-1H-3-benzazepine | 0.03 moles, 14.3 g | C(C)(C)(C)OC(=O)N1CCC2=C([C@@](C1)(C1=CC=C(C=C1)O)C(N)=O)C=C(C(=C2Cl)CC)CC | C26H33ClN2O4
reactant | hydrogen chloride | 50 ml | Cl | ClH
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (R)-6-chloro-7,8-diethycarbamoyl-1-(4-hydroxyphenyl)-2,3,4,5-tetrahydro-1H 3-benzazepine hydrochloride | Cl.ClC1=C(C(=CC=2[C@@](CNCCC21)(C2=CC=C(C=C2)O)C(N)=O)CC)CC | InChI=1S/C21H25ClN2O2.ClH/c1-3-13-11-18-17(19(22)16(13)4-2)9-10-24-12-21(18,20(23)26)14-5-7-15(25)8-6-14;/h5-8,11,24-25H,3-4,9-10,12H2,1-2H3,(H2,23,26);1H/t21-;/m1./s1
